US08227601B2
4-(4-(4-Cyclopropyl-2,6-dimethylphenoxy)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile
In a sealed tube was placed 2-chloro-4-(4-cyclopropyl-2,6-dimethylphenoxy)-5H-pyrrolo[3,2-d]pyrimidine (20 mg, 0.064 mmol), 4-aminobenzonitrile (31 mg, 0.26 mmol), TFE (0.21 mL) and TFA (0.04 mL, 0.51 mmol). The reaction mixture was stirred at 90° C. for 16 h. Upon completion of the reaction, the resulting mixture was diluted with water and washed with EtOAc. The combined organic layers were washed with NaHCO3, brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by preparative TLC, eluting with 5% Acetone/CH2Cl2 to give the product as a light yellow solid (10.5 mg, 45%).

reactant | 2-chloro-4-(4-cyclopropyl-2,6-dimethylphenoxy)-5H-pyrrolo[3,2-d]pyrimidine | 0.064 mmol, 20 mg | ClC=1N=C(C2=C(N1)C=CN2)OC2=C(C=C(C=C2C)C2CC2)C | C17H16ClN3O
reactant | 4-aminobenzonitrile | 0.26 mmol, 31 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | TFA | 0.51 mmol, 0.04 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | O | H2O
product | 4-(4-(4-Cyclopropyl-2,6-dimethylphenoxy)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile | 10.5 mg, 45% | C1(CC1)C1=CC(=C(OC=2C3=C(N=C(N2)NC2=CC=C(C#N)C=C2)C=CN3)C(=C1)C)C | C24H21N5O
